US08957070B2
N-(Cyclopropylmethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
A mixture of 7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (225 mg), bromomalonaldehyde (182 mg) and N,N-dimethylacetamide (3 mL) was stirred at 90° C. for 1 hr. Water was added and the obtained precipitate was washed with water, and then with hexane. The solid was dissolved in a mixture of tetrahydrofuran (5 mL) and methanol (5 mL), and the mixture was cooled in an ice bath. Sodium borohydride (20 mg) was added and the mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated, and the residue was diluted with a mixture of tetrahydrofuran-ethyl acetate (1:1) and washed with saturated brine and aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtrated, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and eluted with a mixture of ethyl acetate-hexane. The obtained solid was washed with a mixture of hexane-ether to give the title compound (100 mg, yield 50%) as crystals. melting point 174° C.

reactant | 7-[(cyclopropylmethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 225 mg | C1(CC1)CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C17H17N3O2S3
reactant | bromomalonaldehyde | 182 mg | BrC(C=O)C=O | C3H3BrO2
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-(Cyclopropylmethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 100 mg, yield 50% | C1(CC1)CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CO | C20H19N3O3S3
